US04003927
To 2-cyclopentyl-6-cyanomethoxy-7,8-dichloro-1- tetralone (5.6 g., 0.0165 mole) in DMF (25 ml.) is added sodium azide (12.6 g., 0.0194 mole) and ammonium chloride (1.05 g., 0.0194 mole). The mixture is heated at 85°-90° C. for one hour, cooled and poured into ice water. The mixture is acidified with 6 N HCl. The dark gummy solid that forms is triturated with butyl chloride to obtain a solid, which is crystallized from a mixture of butyl chloride and methanol to obtain 2-cyclopentyl-6-(5-tetrazolylmethoxy)- 7,8-dichloro-1-tetralone.

reactant | 2-cyclopentyl-6-cyanomethoxy-7,8-dichloro-1- tetralone | 0.0165 mole, 5.6 g | C1(CCCC1)C1C(C2=C(C(=C(C=C2CC1)OCC#N)Cl)Cl)=O | C17H17Cl2NO2
reactant | sodium azide | 0.0194 mole, 12.6 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.0194 mole, 1.05 g | [Cl-].[NH4+]
reactant | HCl | 6 N | Cl | ClH
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2-cyclopentyl-6-(5-tetrazolylmethoxy)- 7,8-dichloro-1-tetralone | C1(CCCC1)C1C(C2=C(C(=C(C=C2CC1)OCC1=NN=NN1)Cl)Cl)=O | C17H18Cl2N4O2
